US06573293B2
5-[6-(2,4-Dimethoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-ylethyl)amide
6-(2,4-Dimethoxyphenyl)-1,3-dihydroindol-2-one (51 mg, 0.19 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-ylethyl)amide (50 mg) to give 30 mg (31%) of the title compound as an orange solid.

reactant | 6-(2,4-Dimethoxyphenyl)-1,3-dihydroindol-2-one | 0.19 mmol, 51 mg | COC1=C(C=CC(=C1)OC)C1=CC=C2CC(NC2=C1)=O | C16H15NO3
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-ylethyl)amide | 50 mg | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=O)C | C14H21N3O2
product | 5-[6-(2,4-Dimethoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-ylethyl)amide | 30 mg, 31% | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC(=CC=C12)C1=C(C=C(C=C1)OC)OC)=O)C | C30H34N4O4
